US08067447B2
Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-(hydroxymethyl)-2-methyl-3-phenylpropanoate (121 mg, 0.29 mmol) was dissolved in MeOH (10 mL) and treated with 1 M NaOH (10 mL). After stirring overnight, the MeOH was removed in vacuo, the residue acidified with conc HCl to pH 4-5 and extracted with EtOAc×3. The organic layer was dried with MgSO4, filtered, concentrated in vacuo to give 115 mg (98%) of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-(hydroxymethyl)-2-methyl-3-phenylpropanoic acid. MS found: (M+H)+=405.

reactant | Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-(hydroxymethyl)-2-methyl-3-phenylpropanoate | 0.29 mmol, 121 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)CO)C1=CC=CC=C1 | C25H23FN2O3
reactant | NaOH | 1 M, 10 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-(hydroxymethyl)-2-methyl-3-phenylpropanoic acid | 115 mg, 98% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)O)(C)CO)C1=CC=CC=C1 | C24H21FN2O3
